US08486939B2
To a solution of 0.310 g (2.50 mmol) of 5-amino-2-methoxypyridine in THF (3 mL) at 0° C. was added 1.35 mL of lithium diisopropylamide (2 M solution in benzene/heptanes/THF), and the mixture was stirred for 20 min. A solution of 0.240 g (0.61 mmol) of 1-[4-chloro-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-2-(difluoromethyl)-4-methoxy-1H-benzimidazole in THF (5 mL) was added, and the resulting mixture was stirred for 1 hr at RT. After neutralization with acetic acid, the mixture was diluted with water and extracted with EtOAc. The organic layer was washed sequentially with water and aq. NH3, dried, and concentrated. Chromatography on alumina, eluting first with hexanes/EtOAc (1:1) and then with CH2Cl2/EtOAc (1:3) gave a reddish powder. Recrystallization from ethanol/CH2Cl2 gave 0.010 g (4% yield) of 4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-N-(6-methoxy-3-pyridinyl)-6-(4-morpholinyl)-1,3,5-triazin-2-amine: mp 201-202° C.; 1H NMR (CDCl3) δ8.33 (br s, 1H), 7.93 (br s, 1H), 7.79 (dd, J=8.8, 2.7 Hz, 1H), 7.32-7.31 (m, 2H), 6.88-6.79 (m, 3H), 4.04 (s, 3H), 3.97 (s, 3H), 3.90 (s, 4H), 3.79 (s, 4H); Anal. Calcd. for C22H22F2N8O3: C, 54.5; H, 4.6; N, 23.1. Found: C, 54.6; H, 4.5; N, 22.9%.

reactant | 5-amino-2-methoxypyridine | 2.50 mmol, 0.310 g | NC=1C=CC(=NC1)OC | C6H8N2O
reactant | lithium diisopropylamide | 2 M, 1.35 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | 1-[4-chloro-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-2-(difluoromethyl)-4-methoxy-1H-benzimidazole | 0.61 mmol, 0.240 g | ClC1=NC(=NC(=N1)N1CCOCC1)N1C(=NC2=C1C=CC=C2OC)C(F)F | C16H15ClF2N6O2
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-N-(6-methoxy-3-pyridinyl)-6-(4-morpholinyl)-1,3,5-triazin-2-amine | 0.010 g, 4% yield | FC(C1=NC2=C(N1C1=NC(=NC(=N1)N1CCOCC1)NC=1C=NC(=CC1)OC)C=CC=C2OC)F | C22H22F2N8O3
